US06239131B1
Preparation of (3R)-2-oxo-3-tert-butoxycarbonylamino-5-[(1S)-2-pinen-10-yl]-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Sodium bicarbonate (2.02 g) and (1s)-10-chloro-2-pinene (4.1 g) were added to a solution of (R)-2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (2.22 g) in anhydrous methanol (40 ml), and the mixture was refluxed overnight. The reaction mixture was concentrated under reduced pressure, water (200 ml) was added, and extracted with ethyl acetate (200 ml) twice. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography(n-hexane:ethyl acetate=4:1), to thereby obtain 2.03 g of the titled compound.

reactant | Sodium bicarbonate | 2.02 g | C([O-])(O)=O.[Na+]
reactant | (1s)-10-chloro-2-pinene | 4.1 g | ClCC=1[C@@H]2C(C(CC1)C2)(C)C | C10H15Cl
reactant | (R)-2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.22 g | O=C1[C@@H](CNC2=C(N1)C=CC=C2)NC(=O)OC(C)(C)C | C14H19N3O3
solvent | methanol | 40 ml | CO | CH4O
product | (3R)-2-oxo-3-tert-butoxycarbonylamino-5-[(1S)-2-pinen-10-yl]-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.03 g | O=C1[C@@H](CN(C2=C(N1)C=CC=C2)CC=2[C@@H]1C(C(CC2)C1)(C)C)NC(=O)OC(C)(C)C | C24H33N3O3
